US06858638B2
N-[3-(1H-Indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide can be obtained in the following way: 158.1 mg of N-tert-butoxycarbonylindole-2-boronic acid and 360 μl of a saturated sodium hydrogencarbonate solution and then 48.2 mg of tetrakis(triphenyl-phosphine)palladium[0] are added to a solution of 101.9 mg of tert-butyl 3-iodo-5-(N-tert-butoxycarbonylbenzenesulfonylamino)indazole-1-carboxylate in 4.5 ml of dimethylformamide. The suspension is heated in the region of 122° C. for 16 hours. After cooling to a temperature in the region of 20° C., the catalyst is filtered through a bed of Celite® 535, and the filtrate is concentrated to dryness under reduced pressure. The reaction crude is purified by preparative HPLS chromatography coupled to a mass detector (LC/MS, conditions A). The fractions containing the expected product are pooled and concentrated. 43.8 mg of N-[3-(1H-indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide are obtained in the form of the trifluoroacetate salt (LC/MS analysis: Tr=3.49 minutes; [M+H]+=389.13).

reactant | N-tert-butoxycarbonylindole-2-boronic acid | 158.1 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | sodium hydrogencarbonate | 360 μl | C(O)([O-])=O.[Na+]
reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonylbenzenesulfonylamino)indazole-1-carboxylate | 101.9 mg | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1)C(=O)OC(C)(C)C | C23H26IN3O6S
solvent | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
product | N-[3-(1H-indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide | 43.8 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1 | C21H16N4O2S
